US07750155B2
To a mixture of crude (2E)-3-[5-({(3R)-1-[2-(dimethylamino) benzyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]acrylic acid (311 mg), O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (108 mg), and HOBT (125 mg) in DMF (2.4 mL) was added WSCD (164 uL), which was stirred at room temperature for 17 hours. To the resultant was added saturated NaHCO3 aq. The mixture was extracted with AcOEt. The organic phase was washed with brine, dried over Na2SO4, filtered, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give (2E)-3-[5-({(3R)-1-[2-(dimethylamino)benzyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (195 mg) as a yellow amorphous.

reactant | (2E)-3-[5-({(3R)-1-[2-(dimethylamino) benzyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]acrylic acid | 311 mg | CN(C1=C(CN2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)O)C=CC=C1)C | C20H25N5O2
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 108 mg | O1C(CCCC1)ON | C5H11NO2
reactant | HOBT | 125 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 2.4 mL | CN(C)C=O | C3H7NO
product | (2E)-3-[5-({(3R)-1-[2-(dimethylamino)benzyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 195 mg | CN(C1=C(CN2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)NOC2OCCCC2)C=CC=C1)C | C25H34N6O3
